US04614742
Synthesis of 2,4,5-Trifluoro-6-sec-butoxyisophthalonitrile (i.e., Compound No. 48)
A 3.0 g amount of tetrafluoroisophthalonitrile and 1.26 g of 20 ml acetonitrile were dissolved in 20 ml of acetonitrile. A 1.66 g amount of sec-butanol was dropwise added to the mixture and the mixture was then stirred at room temperature for 24 hours. After the mixture was filtered, the filtrate was concentrated in vacuo and the concentrated liquid was poured into 50 ml of water. The mixture was extracted with carbon tetrachloride. After washing with water, the resultant mixture was dried with anhydrous magnesium sulfate and the solvent was then distilled off. Thus, 3.4 g (89% yield) of the desired compound No. 48 was obtained.

reactant | tetrafluoroisophthalonitrile | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | sec-butanol | C(C)(CC)O | C4H10O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml, 1.26 g | C(C)#N | C2H3N
product | 2,4,5-Trifluoro-6-sec-butoxyisophthalonitrile | 3.4 g, 89% yield | FC1=C(C#N)C(=C(C(=C1C#N)F)F)OC(C)CC | C12H9F3N2O
